US05217705
Preparation of t-butoxycarbonyl-D-phenylalanine-L-proline-methyl ester (3)
One gm (6 mmole) L-proline-methyl ester HCl (Aldrich) was added to 15 ml CH2Cl2. Then 866 l (1 equiv.) triethylamine (TEA) was added, followed by 1.6 gm (1 equiv.) of T-Boc-D-phenylalanine (Bachem) and 1.6 gm (1.3 equiv.) dicyclohexylcarbodiimide (DCC, Aldrich). The reaction was stirred at room temperature for 3.5 hrs. 1 I,C (CH3CN:H2O:AcOH, 94:5:1, ninhydrin stain) indicated minor amounts of starting materials and a major new product at an Rf of 0.95.

reactant | L-proline-methyl ester HCl | 6 mmole, One gm | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 866 l, 1 equiv. | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 1.6 gm, 1.3 equiv. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | AcOH | CC(=O)O | C2H4O2
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | t-butoxycarbonyl-D-phenylalanine L-proline-methyl ester | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O.COC([C@H]1NCCC1)=O | InChI=1S/C14H19NO4.C6H11NO2/c1-14(2,3)19-13(18)15-11(12(16)17)9-10-7-5-4-6-8-10;1-9-6(8)5-3-2-4-7-5/h4-8,11H,9H2,1-3H3,(H,15,18)(H,16,17);5,7H,2-4H2,1H3/t11-;5-/m10/s1
